US08541455B2
29.1. tert-butyl [(1R,3S)-3-(hydroxymethyl)cyclopentyl]carbamate
To a solution of 2 g (8.7 mmol) of (1S,3R)-3-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylic acid and 1.33 mL (9.6 mmol) of Et3N in 20 mL of anhydrous THF are added dropwise, at −20° C., 1.2 mL (9.2 mmol) of isobutyl chloroformate. The medium is stirred for 45 minutes at −20° C. and the insoluble material formed is then filtered off. A solution of 1 g (26.2 mmol) of sodium borohydride in a THF/H2O mixture (16 mL/4 mL) is added dropwise to the filtrate at −10° C. and stirring is then continued, while allowing the temperature to return to room temperature. 100 mL of 0.1N HCl are then added slowly and the reaction medium is then extracted with 2×200 mL of EtOAc, dried over Na2SO4, filtered and concentrated under reduced pressure. After purification by chromatography on a column of silica gel, eluting with a DCM/MeOH mixture (95/5), 1.4 g of tert-butyl [(1R,3S)-3-(hydroxymethyl)cyclopentyl]carbamate are obtained in the form of an oil.

reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylic acid | 8.7 mmol, 2 g | C(C)(C)(C)OC(=O)N[C@H]1C[C@H](CC1)C(=O)O | C11H19NO4
reactant | Et3N | 9.6 mmol, 1.33 mL | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 9.2 mmol, 1.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 26.2 mmol, 1 g | [BH4-].[Na+]
reactant | HCl | 0.1N, 100 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF H2O | 16 mL | C1CCOC1.O
product | tert-butyl [(1R,3S)-3-(hydroxymethyl)cyclopentyl]carbamate | OC[C@@H]1C[C@@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
